US08431604B2
N-(2-methoxybenzyl)-N′-(4-phenyl-1,3-oxazole-2-yl)guanidine
The cyclization of 0.60 g (2.94 mmol) N-cyano-N′-(2-methoxybenzyl)guanidine with 0.44 g (2.94 mmol) 2-hydroxyacetophenone was performed in 20 ml acetonitrile and water (1:1). The pH value of the mixture was adjusted with 1 N hydrochloric acid to pH 1.5 and the mixture was then heated in the microwave at 45° C. (100 Watt) for 4.5 hours. After workup and purification, analogously to 190.2, 0.10 g of pure product was obtained.

reactant | N-cyano-N′-(2-methoxybenzyl)guanidine | 2.94 mmol, 0.60 g | C(#N)NC(=N)NCC1=C(C=CC=C1)OC | C10H12N4O
reactant | 2-hydroxyacetophenone | 2.94 mmol, 0.44 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | N-(2-methoxybenzyl)-N′-(4-phenyl-1,3-oxazole-2-yl)guanidine | 0.10 g | COC1=C(CNC(=N)NC=2OC=C(N2)C2=CC=CC=C2)C=CC=C1 | C18H18N4O2
